US08207178B2
Step H: 4-(4-(2,6-dimethyl-4-(pyridin-4-yl)phenylthio)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile
tert-Butyl 4-(2,6-dimethyl-4-(pyridin-4-yl)phenylthio)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-yl-4-cyanophenylcarbamate is treated with TFA (10 mL) at 25° C. for 2 h. TFA is removed and the obtained residue dissolved in ethyl acetate, and extracted with saturated aqueous NaHCO3 (×2). The organic layer is collected, concentrated, and the purified by chromatography (SiO2, 1:4 hexanes/EtOAc).

reactant | tert-Butyl 4-(2,6-dimethyl-4-(pyridin-4-yl)phenylthio)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-yl-4-cyanophenylcarbamate | CC1=C(C(=CC(=C1)C1=CC=NC=C1)C)SC=1C2=C(N=C(N1)N(C(OC(C)(C)C)=O)C1=CC=C(C=C1)C#N)C=CN2C | C32H30N6O2S
solvent | TFA | 10 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 4-(4-(2,6-dimethyl-4-(pyridin-4-yl)phenylthio)-5-methyl-5H-pyrrolo[3,2-d]pyrimidin-2-ylamino)benzonitrile | CC1=C(C(=CC(=C1)C1=CC=NC=C1)C)SC=1C2=C(N=C(N1)NC1=CC=C(C#N)C=C1)C=CN2C | C27H22N6S
